US07875639B2
N-[(2Z)-3-(2-chloro-6-fluorobenzyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, 2-bromomethyl-1-chloro-3-fluorobenzene and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 1.50-1.70 (m, 12 H) 1.80-1.93 (m, 3 H) 2.17 (s, 3 H) 2.22 (s, 3 H) 5.42 (s, 2 H) 7.11-7.22 (m, 1 H) 7.26-7.41 (m, 2 H); MS (ESI) m/z 433 (M+H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | 2-bromomethyl-1-chloro-3-fluorobenzene | BrCC1=C(C=CC=C1F)Cl | C7H5BrClF
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-3-(2-chloro-6-fluorobenzyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | ClC1=C(CN2/C(/SC(=C2C)C)=N/C(=O)C23CC4CC(CC(C2)C4)C3)C(=CC=C1)F | C23H26ClFN2OS
